US06448242B1
Preparation of 1,3-bis[1-[(E)-5-(3,4,5-trimethoxyphenyl)-2-penten-4-ynoyl]-4-piperidinyl]-2-(dimethylamino)propane hydrochloride
Concentrated hydrochloric acid (0.035 ml; 0.42 mmol) was added to a solution of 1,3-bis[1-[(E)-5-(3,4,5trimethoxyphenyl)-2-penten-4-ynoyl]-4-piperidinyl]-2-(dimethylamino)propane (104 mg; 0.14 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. A process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice to obtain the title compound as a pale yellow amorphous powder.

reactant | hydrochloric acid | 0.42 mmol, 0.035 ml | Cl | ClH
reactant | 1,3-bis[1-[(E)-5-(3,4,5trimethoxyphenyl)-2-penten-4-ynoyl]-4-piperidinyl]-2-(dimethylamino)propane | 0.14 mmol, 104 mg | COC=1C=C(C=C(C1OC)OC)C#C/C=C/C(=O)N1CCC(CC1)CC(CC1CCN(CC1)C(\C=C\C#CC1=CC(=C(C(=C1)OC)OC)OC)=O)N(C)C | C43H55N3O8
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,3-bis[1-[(E)-5-(3,4,5-trimethoxyphenyl)-2-penten-4-ynoyl]-4-piperidinyl]-2-(dimethylamino)propane hydrochloride | Cl.COC=1C=C(C=C(C1OC)OC)C#C/C=C/C(=O)N1CCC(CC1)CC(CC1CCN(CC1)C(\C=C\C#CC1=CC(=C(C(=C1)OC)OC)OC)=O)N(C)C | InChI=1S/C43H55N3O8.ClH/c1-44(2)35(25-31-17-21-45(22-18-31)40(47)15-11-9-13-33-27-36(49-3)42(53-7)37(28-33)50-4)26-32-19-23-46(24-20-32)41(48)16-12-10-14-34-29-38(51-5)43(54-8)39(30-34)52-6;/h11-12,15-16,27-32,35H,17-26H2,1-8H3;1H/b15-11+,16-12+;
